US07153873B2
3-(tert-butyl-cyclohexancarbonyl-amino)-1-cyclohexancarbonyl-2-phenyl-imidazo[1,2-a]pyridin-1-ium chloride
Example 10 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) tert.-butylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) benzaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process steps b) to d) by reacting the resultant reaction product with 0.4 mmol cyclohexylcarboxylic acid chloride.

reactant | 2-amino-pyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1 | C5H6N2
reactant | tert.-butylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | benzaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclohexylcarboxylic acid chloride | 0.4 mmol | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 3-(tert-butyl-cyclohexancarbonyl-amino)-1-cyclohexancarbonyl-2-phenyl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(C)(C)N(C1=C([N+](=C2N1C=CC=C2)C(=O)C2CCCCC2)C2=CC=CC=C2)C(=O)C2CCCCC2 | InChI=1S/C31H40N3O2.ClH/c1-31(2,3)34(30(36)25-19-11-6-12-20-25)28-27(23-15-7-4-8-16-23)33(26-21-13-14-22-32(26)28)29(35)24-17-9-5-10-18-24;/h4,7-8,13-16,21-22,24-25H,5-6,9-12,17-20H2,1-3H3;1H/q+1;/p-1
